US03950522
A solution of 9.95 g. (0.081 mole) of 2-(methoxymethyl)pyridine in 80 ml. of dry benzene is added dropwise to a chilled solution of 40 ml. (0.084 mole) of phenyl lithium in 80 ml. of dry benzene. The mixture is stirred at 0°C. for 1 hour after the addition is complete. Then 8.02 g. of allyl isothiocyanate in 50 ml. of benzene is added dropwise and the mixture is allowed to come to room temperature gradually. The mixture is then diluted with 500 ml. of water and acidified with 10% hydrochloric fractions The layers are separated and the organic layer is washed several times with water. The aqueous layers are combined, neutralized with 10% aqueous sodium hydroxide solution and then brought to pH 9 5% aqueous sodium bicarbonate solution, then extracted with chloroform. The chloroform extracts are washed once with brine and dried over magnesium sulfate. The solvent is removed and the residue is chromatographed on a silica gel column, eluting with ethyl acetate. The fraction, containing the product are combined and evaporated and the residue is recrystallized from ethyl acetate/hexane to give N-allyl-2-methoxy-2-(2-pyridyl)thioacetamide, m.p. 59.5°-60°C.

reactant | 2-(methoxymethyl)pyridine | 0.081 mole | COCC1=NC=CC=C1 | C7H9NO
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | phenyl lithium | 0.084 mole | C1(=CC=CC=C1)[Li]
reactant | allyl isothiocyanate | C(C=C)N=C=S | C4H5NS
solvent | water | O | H2O
product | N-allyl-2-methoxy-2-(2-pyridyl)thioacetamide | C(C=C)NC(C(C1=NC=CC=C1)OC)=S | C11H14N2OS
